US05998433
a) Synthesis of 5-(4-phenethylbenzenesulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine
A solution of the above 5-(stilbene-4-sulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine in 20 ml of toluene-ethanol (5:1) was hydrogenated at room temperature at atmospheric pressure over 49 mg (0.053 mmol) of chlorotris(triphenylphosphine)rhodium (I) until the starting material disappeared on TLC. After the reaction mixture was concentrated under reduced pressure, the resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1) and crystallized from diethyl ether-hexane to yield the desired product.

reactant | 5-(stilbene-4-sulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=C(CC1)OC=C2)C=CC2=CC=CC=C2 | C21H19NO3S
solvent | toluene-ethanol | 20 ml | C=1(C(=CC=CC1)CCO)C | C9H12O
catalyst | chlorotris(triphenylphosphine)rhodium (I) | 0.053 mmol, 49 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 5-(4-phenethylbenzenesulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | C(CC1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1CC2=C(CC1)OC=C2 | C21H21NO3S
